* CDL/LVS-oriented netlist
.SUBCKT pgatbdrv_x1 VDDP VSS VBP VBN VDDC ENX EN
* Power-management helper: ref_lib-style rails listed first.
XPG_ENX_POFF ENX VDDP ENX VBP pmos w=2u l=100n
XPG_ENX_NOFF ENX VSS ENX VBN nmos w=1u l=100n
XPG_EN_POFF EN VDDP EN VBP pmos w=2u l=100n
XPG_EN_NOFF EN VSS EN VBN nmos w=1u l=100n
.ENDS pgatbdrv_x1
